US06551682B1
(16) Production of 2-(3,5-dichloro-2-pyridylazo)-5-(diethylamino)phenol) (No. L126)
Next, a flask was loaded with 3-(N,N-diethylamino)phenol (1.7 g), dimethylformamide (14 ml), acetic acid (5 ml) and iodine (0.24 g), and they were mixed, followed by addition of 3,5-dichloro-2-hydrazinopyridine (1.6 g) to the flask with stirring. Then, to this, a 30% hydrogen peroxide water (2.4 g) was dropwise added in 90 minutes and the mixture was stirred overnight. The reaction mixture was filtrated, and ether and water were added to the filtrate, followed by stirring. After stirring, the ether layer was collected and condensed to precipitate crystals. The crystals were filtrated for collection and dried to give intended crystals (0.54 g).

reactant | 3-(N,N-diethylamino)phenol | 1.7 g | C(C)N(CC)C=1C=C(C=CC1)O | C10H15NO
reactant | iodine | 0.24 g | II | I2
reactant | 3,5-dichloro-2-hydrazinopyridine | 1.6 g | ClC=1C(=NC=C(C1)Cl)NN | C5H5Cl2N3
reactant | hydrogen peroxide water | 2.4 g | O.OO
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | dimethylformamide | 14 ml | CN(C=O)C | C3H7NO
product | 2-(3,5-dichloro-2-pyridylazo)-5-(diethylamino)phenol | ClC=1C(=NC=C(C1)Cl)N=NC1=C(C=C(C=C1)N(CC)CC)O | C15H16Cl2N4O
